US04198415
106 g. of the above mixture were dissolved in 1 l. of THF and the solution cooled in an ice-water bath. 40 g. of lithium aluminumhydride were added thereto in portions. After the addtion had been completed, the reaction mixture was heated to refluxing temperature under a nitrogen atmosphere for about 4 hours. The reaction mixture was then cooled and excess lithium aluminumhydride destroyed by the addition of ethyl acetate. 10 percent aqueous sodium hydroxide was added to decompose any organometallic compounds present in the mixture. At this point, the reaction mixture was diluted with water. The resulting aqueous mixture was extracted several times with chloroform. The chloroform extracts were separated and combined. The combined extracts were washed with saturated aqueous sodium chloride and then dried. Evaporation of the chloroform yielded a residue comprising a mixture of 1-benzyl-6-hydroxy-1,2,3,4,5,6,7,8-octahydroquinoline and 1-benzyl-6-hydroxy-1,2,3,4,4a,5,6,7-octahydroquinoline. (Both the 2-oxo group and the 6-benzoyloxy group reacted with the lithium aluminum hydride to yield an octahydroquinoline with a free alcohol at C-6). The mixture of compounds thus obtained was dissolved in ether, the ethereal solution cooled, and gaseous anhydrous hydrogen chloride passed into the solution, thus forming the hydrochloride salts of the quinoline isomers. The quinoline hydrochlorides were insoluble and were separated by decantantation of the ether. The residual salts were dissolved in 100 ml. of methanol and 400 ml. of THF. The solution was cooled and 30 g. of sodium cyanoborohydride added thereto in portions. After the addition had been completed, the cooling bath was removed and the reaction mixture stirred at ambient temperature for 1.25 hours, after which time it was poured into a mixture of 1 N aqueous hydrochloric acid and ice. The acidic solution was extracted with ether, and the ether extract discarded. The acidic solution was then made basic with 10 percent aqueous sodium hydroxide and the alkaline mixture extracted several times with a chloroform-isopropanol solvent mixture. The organic extracts were combined, and the combined extracts washed with saturated aqueous sodium chloride and then dried. Evaporation of the solvent yielded trans-dl-1-benzyl-6-hydroxydecahydroquinoline formed in the above reaction; yield=53.6 g. Total yield in 6 steps was 73 percent based upon recovered 4-benzoyloxycyclohexanone starting material.

reactant | lithium | [Li] | Li
reactant | 1-benzyl-6-hydroxy-1,2,3,4,5,6,7,8-octahydroquinoline | C(C1=CC=CC=C1)N1CCCC=2CC(CCC12)O | C16H21NO
reactant | 1-benzyl-6-hydroxy-1,2,3,4,4a,5,6,7-octahydroquinoline | C(C1=CC=CC=C1)N1CCCC2CC(CC=C12)O | C16H21NO
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | C1CCOC1 | C4H8O
product | octahydroquinoline | N1CCCC2CCCC=C12 | C9H15N
